US07622583B2
To a solution of 4-chloro-N-(5-chloro-2-formyl-pyridin-3-yl)-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (590 mg, 1.33 mmol) in tert-butanol (26 mL) was added isobutylene (5 mL), sodium chlorite (751 mg, 6.66 mmol) sodium dihydrogen phosphate (919 mg, 6.66 mmol) and water (26 mL). After the solution was stirred at room temperature for 3 h, EtOAc(10 mL) was added and the layers were separated. The organic layer was washed with saturated sodium bicarbonate (2×10 mL) and brine (1×10 mL), dried over magnesium sulfate, filtered, and concentrated in vacuo to yield 5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carboxylic acid as a white solid.

reactant | 4-chloro-N-(5-chloro-2-formyl-pyridin-3-yl)-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 1.33 mmol, 590 mg | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C=O)C(F)(F)F | C15H11Cl2F3N2O4S
reactant | isobutylene | 5 mL | CC(C)=C | C4H8
reactant | sodium chlorite | 6.66 mmol, 751 mg | Cl(=O)[O-].[Na+]
reactant | water | 26 mL | O | H2O
solvent | tert-butanol | 26 mL | C(C)(C)(C)O | C4H10O
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | 5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carboxylic acid | ClC=1C=C(C(=NC1)C(=O)O)N(COC)S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C15H11Cl2F3N2O5S
